US05795905
To a solution of 2,4-dichlorobenzoyl chloride (4.5 g, 21.5 mmol) in tetrahydrofuran (30 ml) was treated with copper (I) iodide (200 mg) and cooled to -20° C. Propyl magnesium bromide (2.0M in diethyl ether, 11 ml, 11 mmol) was slowly injected (10 minutes) under nitrogen. The yellow suspension was stirred at -20° C. to -15° C. for 10 minutes, the cooling bath was removed and stirring was continued for another hour. The reaction was quenched with water, and the product was extracted with toluene. The organic phase was washed with 1N aqueous hydrochloric acid, bicarbonate and brine, filtrated through a silica gel pad and concentrated in vacuo to give 2,4-dichlorobutyrophenone as a yellowish oil (4.5 g, 96%) which was used in the next step without further purification. 1H NMR (CDCl3): 0.99 (t, 3H), 1.74 (m, 2H), 2.91 (t, 2H), 7.32 (d, 1H), 7.42 (d, 1H), 7.44 (s, 1H).

reactant | 2,4-dichlorobenzoyl chloride | 21.5 mmol, 4.5 g | ClC1=C(C(=O)Cl)C=CC(=C1)Cl | C7H3Cl3O
reactant | Propyl magnesium bromide | 11 mmol, 2.0M, 11 ml | C(CC)[Mg]Br
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
catalyst | copper (I) iodide | 200 mg | [Cu]I
product | 2,4-dichlorobutyrophenone | 4.5 g, 96% | ClC(C(=O)C1=CC=CC=C1)CCCl | C10H10Cl2O
